US06569851B1
1,3-Dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one (prepared according to the procedure of M. G. Bock et al., J. Org. Chem. 1987, 52, 3232-3239) was alkylated with isobutyl iodide using General Procedure 8-G to afford 1,3-dihydro-1-isobutyl-5-phenyl-2H-1,4-benzodiazepin-2-one.

reactant | 1,3-Dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | C1(=CC=CC=C1)C1=NCC(NC2=C1C=CC=C2)=O | C15H12N2O
reactant | isobutyl iodide | C(C(C)C)I | C4H9I
product | 1,3-dihydro-1-isobutyl-5-phenyl-2H-1,4-benzodiazepin-2-one | C(C(C)C)N1C(CN=C(C2=C1C=CC=C2)C2=CC=CC=C2)=O | C19H20N2O
